US05110956
Sodium[{1-(1,3-benzodioxol-5-yl)butyl}thio]acetate
100 g of [{1-(1,3-benzodioxol-5-yl)butyl}thio] acetic acid was dissolved in 500 ml of ethanol. 372 ml of 1N-aqueous sodium hydroxide solution was added thereto. Ethanol and water were removed from the reaction mixture by azeotropic distillation and then ether was added to the residue to solidify it. A precipitate thus formed was recovered by filtration and dried to obtain 102 g of the intended compound in the form of a white powder.

reactant | [{1-(1,3-benzodioxol-5-yl)butyl}thio] acetic acid | 100 g | O1COC2=C1C=CC(=C2)C(CCC)SCC(=O)O | C13H16O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | Sodium[{1-(1,3-benzodioxol-5-yl)butyl}thio]acetate | 102 g | O1COC2=C1C=CC(=C2)C(CCC)SCC(=O)[O-].[Na+] | InChI=1S/C13H16O4S.Na/c1-2-3-12(18-7-13(14)15)9-4-5-10-11(6-9)17-8-16-10;/h4-6,12H,2-3,7-8H2,1H3,(H,14,15);/q;+1/p-1
